US05587379
Step D Synthesis of 2,4-diamino-5-(2-ethylbutoxy)pyrimidine
A stirred solution of 0.50 gram (0.003 mole) of 2,4-diamino-5-hydroxypyrimidine hydrosulfate salt, 0.47 gram (0.007 mole) of 1-bromo-2-ethylbutane and 0.95 gram (0.007 mole) of anhydrous potassium carbonate in 5 mL of N,N-dimethylformamide was heated at 84°-86° C. for about two hours. After this time the reaction mixture was allowed to cool to ambient temperature as it stirred during about a 16 hour period. The reaction mixture was then stirred with 50 mL of water and 50 mL of methylene chloride. The methylene chloride layer was separated and washed with 50 mL of water. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a solid residue. The residue was recrystallized from 2:1 water and methanol, yielding, when dried, 0.20 gram of 2,4-diamino-5-(2-ethylbutoxy)pyrimidine. The NMR spectrum was consistent with the proposed structure.

reactant | 2,4-diamino-5-hydroxypyrimidine | 0.003 mole, 0.50 gram | NC1=NC=C(C(=N1)N)O | C4H6N4O
reactant | 1-bromo-2-ethylbutane | 0.007 mole, 0.47 gram | BrCC(CC)CC | C6H13Br
reactant | potassium carbonate | 0.007 mole, 0.95 gram | C([O-])([O-])=O.[K+].[K+]
reactant | water | 50 mL | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2,4-diamino-5-(2-ethylbutoxy)pyrimidine | NC1=NC=C(C(=N1)N)OCC(CC)CC | C10H18N4O
